US08314147B2
Intermediate 14: diethyl (4-amino-2,5-difluorophenyl)propanedioate
10% Pd/C (wet paste, 484 mg) was added to a solution of diethyl (2,5-difluoro-4-nitrophenyl)propanedioate (4.84 g, 15.3 mmol) and ammonium formate (5 eq, 4.81 g, 76.34 mmol) in ethanol (100 mL). The reaction mixture was heated to reflux under argon for one hour. The reaction was allowed to cool and then filtered through celite to remove the Pd residues. The filtrate was evaporated to dryness and then partitioned between ethyl acetate (100 mL) and water (100 mL). The organic layer was separated, dried over magnesium sulfate, filtered and then evaporated to dryness to give the title compound as an orange oil (4.39 g) LC/MS Rt=1.07 min, [MH]+ 288.

reactant | diethyl (2,5-difluoro-4-nitrophenyl)propanedioate | 15.3 mmol, 4.84 g | FC1=C(C=C(C(=C1)[N+](=O)[O-])F)C(C(=O)OCC)C(=O)OCC | C13H13F2NO6
reactant | ammonium formate | 76.34 mmol, 4.81 g, 5 eq | C(=O)[O-].[NH4+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
catalyst | Pd/C | 484 mg | [Pd] | Pd
product | diethyl (4-amino-2,5-difluorophenyl)propanedioate | 4.39 g | NC1=CC(=C(C=C1F)C(C(=O)OCC)C(=O)OCC)F | C13H15F2NO4
